US06429205B1
A solution of 5-indoleboronic acid (2.0 g, 12 mmol) and 2-bromothioanisole (1.6 mL, 12 mmol) in a mixture of ethylene glycol dimethyl ether (20 mL) and aqueous sodium carbonate (10 mL) was deoxygenated by a rapid stream of nitrogen applied to the system for 20 min, then treated with Pd(0) at once. The reaction was refluxed for 18 h, cooled down, filtered through Celite® and washed with THF (20 mL). The filtrate evaporated to dryness, taken up in water and extracted with EtOAc (3×). The EtOAc extracts were dried over sodium sulfate and concentrated. The crude residue was purified by flash chromatography (hexane/EtOAc, 1:3) to afford 5-[2-(methylthio)phenyl]-1H-indole (1.5 g, 52%).

reactant | 5-indoleboronic acid | 12 mmol, 2.0 g | N1C=CC2=CC(=CC=C12)B(O)O | C8H8BNO2
reactant | 2-bromothioanisole | 12 mmol, 1.6 mL | BrC1=C(C=CC=C1)SC | C7H7BrS
reactant | sodium carbonate | 10 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethylene glycol dimethyl ether | 20 mL | COCCOC | C4H10O2
product | 5-[2-(methylthio)phenyl]-1H-indole | 1.5 g, 52% | CSC1=C(C=CC=C1)C=1C=C2C=CNC2=CC1 | C15H13NS
